US09216980B2
Preparation of 3-(4-Bromo-phenyl)-1-methyl-piperidin-3-ol
A mixture of 3-(4-bromo-phenyl)-3-hydroxypiperidine-1-carboxylic acid tert-butyl ester (1.39 g, 3.9 mmol), formic acid (18.4 mL) and formaldehyde (1.6 mL) was heated under microwave irradiation at 150° C. for 5 minutes. The cooled reaction mixture was loaded onto a 70 g SCX-2 cartridge which was washed with methanol (200 mL) and then eluted with 2N ammonia in methanol (200 mL). Concentration of the combined basic fractions in vacuo afforded the title compound (978 mg, 93%) as a brown oil. LCMS (Method B): RT=1.84 min, M+H+=270.

reactant | 3-(4-bromo-phenyl)-3-hydroxypiperidine-1-carboxylic acid tert-butyl ester | 3.9 mmol, 1.39 g | C(C)(C)(C)OC(=O)N1CC(CCC1)(O)C1=CC=C(C=C1)Br | C16H22BrNO3
reactant | formaldehyde | 1.6 mL | C=O | CH2O
solvent | formic acid | 18.4 mL | C(=O)O | CH2O2
product | 3-(4-Bromo-phenyl)-1-methyl-piperidin-3-ol | 978 mg, 93% | BrC1=CC=C(C=C1)C1(CN(CCC1)C)O | C12H16BrNO
